US04297355
7-(Imidazolylcarbonyl)-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione (1 g.) is suspended in dry dimethylformamide (60 ml.) and n-butylamine (1.1 g.) is added. The mixture is stirred at room temperature overnight then at 70° C. for 11/2 hours. The product is added to dilute HCl and the solid is collected, washed with water, ethanol and ether and dried to yield the desired 7-(n-butylaminocarbonyl)-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione.

reactant | 7-(Imidazolylcarbonyl)-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | 1 g | N1C(=NC=C1)C(=O)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C15H10N4O3S
reactant | n-butylamine | 1.1 g | C(CCC)N | C4H11N
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 7-(n-butylaminocarbonyl)-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | C(CCC)NC(=O)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C16H17N3O3S
